US08686048B2
Intermediate 54: 2,6-difluoro-4-(3-methyl-1H-indol-5-yl)aniline
The title compound (68 mg) was prepared from 4-bromo-2,6-difluoroaniline (100 mg, 0.48 mmol) and 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (160 mg, 0.62 mmol) as a white solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.71 (s, 1H), 7.67 (s, 1H), 7.33-7.29 (m, 2H), 7.28-7.21 (m, 2H), 7.09 (s, 1H), 5.12 (s, 2H), 2.27 (s, 3H).

reactant | 4-bromo-2,6-difluoroaniline | 0.48 mmol, 100 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.62 mmol, 160 mg | CC1=CNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
product | 2,6-difluoro-4-(3-methyl-1H-indol-5-yl)aniline | 68 mg | FC1=C(N)C(=CC(=C1)C=1C=C2C(=CNC2=CC1)C)F | C15H12F2N2
